US08809336B2
24B. 4-(4-Chlorophenyl)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-4-carbonitrile
A solution of 4-(4-chlorophenyl)piperidine-4-carbonitrile hydrochloride (0.055 g, 0.2155 mmol), 4-chloro-7H-pyrrolo[2,3-d]pyrimidine (0.033 g, 0.2155 mmol) and triethylamine (0.150 ml, 1.0775 mmol) in n-butanol (2.0 ml) was heated to 100° C. for 2 days. Concentration and trituration with methanol (3 ml) gave a white solid (0.058 g, 80%). LC-MS (LCT2) m/z 338 [M+H+], Rt 6.17 min.

reactant | 4-(4-chlorophenyl)piperidine-4-carbonitrile hydrochloride | 0.2155 mmol, 0.055 g | Cl.ClC1=CC=C(C=C1)C1(CCNCC1)C#N
reactant | 4-chloro-7H-pyrrolo[2,3-d]pyrimidine | 0.2155 mmol, 0.033 g | ClC=1C2=C(N=CN1)NC=C2 | C6H4ClN3
reactant | triethylamine | 1.0775 mmol, 0.150 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 2.0 ml | C(CCC)O | C4H10O
product | 4-(4-Chlorophenyl)-1-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-4-carbonitrile | 0.058 g, 80% | ClC1=CC=C(C=C1)C1(CCN(CC1)C=1C2=C(N=CN1)NC=C2)C#N | C18H16ClN5
